US06706663B2
Preparation of 3-[3-(1-Methylpyrrol-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil
To a mixture of 5-amino-3-(1-methylpyrrol-2-yl)-1,2-benzisothiazole(1.05 g, 4.59 mmol) and acetic acid is added 2-(dimethylamino)-4-(trifluoromethyl)-5H-1,3-oxazin-6-one (0.960 g, 4.60 mmol). The resultant mixture is stirred at reflux for two hours, cooled to room temperature, diluted with ice water and stirred vigorously for approximately 15 minutes. Filtration and drying affords the title compound as a gray solid (1.50 g, 83.3%, mp 125-130° C.) which is identified by NMR spectral analysis.

reactant | 5-amino-3-(1-methylpyrrol-2-yl)-1,2-benzisothiazole | 4.59 mmol, 1.05 g | NC=1C=CC2=C(C(=NS2)C=2N(C=CC2)C)C1 | C12H11N3S
reactant | 2-(dimethylamino)-4-(trifluoromethyl)-5H-1,3-oxazin-6-one | 4.60 mmol, 0.960 g | CN(C1OC(CC(=N1)C(F)(F)F)=O)C | C7H9F3N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[3-(1-Methylpyrrol-2-yl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil | 1.50 g, 83.3% | CN1C(=CC=C1)C1=NSC2=C1C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O | C17H11F3N4O2S
